* SPICE NETLIST
***************************************

.SUBCKT mimcap_g13 plus minus
.ENDS
***************************************
.SUBCKT spiral_inductor_lvs pos neg
.ENDS
***************************************
.SUBCKT Mux21 VDD A Y B ground S
** N=7 EP=6 IP=0 FDC=6
M0 Y 7 A ground nmos L=1.3e-07 W=6e-07 $X=-1155 $Y=95135 $D=19
M1 B S Y ground nmos L=1.3e-07 W=6e-07 $X=-645 $Y=95135 $D=19
M2 7 S ground ground nmos L=1.3e-07 W=6e-07 $X=835 $Y=95135 $D=19
M3 Y S A VDD pmos L=1.3e-07 W=1.35e-06 $X=-1165 $Y=108725 $D=25
M4 B 7 Y VDD pmos L=1.3e-07 W=1.35e-06 $X=-655 $Y=108725 $D=25
M5 7 S VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=825 $Y=108725 $D=25
.ENDS
***************************************
.SUBCKT DFFen VDD Q ground CLK D En
** N=16 EP=6 IP=6 FDC=26
M0 ground 11 Q ground nmos L=1.3e-07 W=6e-07 $X=4745 $Y=53705 $D=19
M1 7 10 ground ground nmos L=1.3e-07 W=6e-07 $X=5255 $Y=53705 $D=19
M2 8 15 7 ground nmos L=1.3e-07 W=6e-07 $X=5765 $Y=53705 $D=19
M3 ground 16 8 ground nmos L=1.3e-07 W=6e-07 $X=6075 $Y=53705 $D=19
M4 9 14 ground ground nmos L=1.3e-07 W=6e-07 $X=6585 $Y=53705 $D=19
M5 10 15 9 ground nmos L=1.3e-07 W=6e-07 $X=6895 $Y=53705 $D=19
M6 ground 7 10 ground nmos L=1.3e-07 W=6e-07 $X=7405 $Y=53705 $D=19
M7 11 Q ground ground nmos L=1.3e-07 W=6e-07 $X=7915 $Y=53705 $D=19
M8 12 CLK 11 ground nmos L=1.3e-07 W=6e-07 $X=9395 $Y=53705 $D=19
M9 ground 10 12 ground nmos L=1.3e-07 W=6e-07 $X=9705 $Y=53705 $D=19
M10 13 7 ground ground nmos L=1.3e-07 W=6e-07 $X=10215 $Y=53705 $D=19
M11 Q CLK 13 ground nmos L=1.3e-07 W=6e-07 $X=10525 $Y=53705 $D=19
M12 ground 16 14 ground nmos L=1.3e-07 W=6e-07 $X=12005 $Y=53705 $D=19
M13 15 CLK ground ground nmos L=1.3e-07 W=6e-07 $X=12515 $Y=53705 $D=19
M14 VDD 16 14 VDD pmos L=1.3e-07 W=6e-07 $X=6405 $Y=68045 $D=25
M15 15 CLK VDD VDD pmos L=1.3e-07 W=6e-07 $X=6915 $Y=68045 $D=25
M16 VDD 7 10 VDD pmos L=1.3e-07 W=6e-07 $X=8395 $Y=68045 $D=25
M17 7 10 VDD VDD pmos L=1.3e-07 W=6e-07 $X=8905 $Y=68045 $D=25
M18 VDD 11 Q VDD pmos L=1.3e-07 W=6e-07 $X=10385 $Y=68045 $D=25
M19 11 Q VDD VDD pmos L=1.3e-07 W=6e-07 $X=10895 $Y=68045 $D=25
X20 VDD Q 16 D ground En Mux21 $T=880 -41430 0 0 $X=-1725 $Y=51735
.ENDS
***************************************
.SUBCKT ICV_1 1 2 3 4 5 6 7 8
** N=8 EP=8 IP=12 FDC=52
X0 2 5 1 6 3 4 DFFen $T=0 0 0 0 $X=-1725 $Y=51735
X1 2 8 1 6 3 7 DFFen $T=16000 0 0 0 $X=14275 $Y=51735
.ENDS
***************************************
.SUBCKT and VDD ground Y A B
** N=7 EP=5 IP=0 FDC=6
M0 7 A 6 ground nmos L=1.3e-07 W=1.2e-06 $X=24885 $Y=96580 $D=19
M1 ground B 7 ground nmos L=1.3e-07 W=1.2e-06 $X=25195 $Y=96580 $D=19
M2 Y 6 ground ground nmos L=1.3e-07 W=6e-07 $X=25735 $Y=97180 $D=19
M3 6 A VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=24745 $Y=110170 $D=25
M4 VDD B 6 VDD pmos L=1.3e-07 W=1.35e-06 $X=25255 $Y=110170 $D=25
M5 Y 6 VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=25765 $Y=110170 $D=25
.ENDS
***************************************
.SUBCKT ICV_2 1 2 3 4 5 6 7
** N=7 EP=7 IP=10 FDC=12
X0 2 1 5 3 4 and $T=0 0 0 0 $X=23060 $Y=94610
X1 2 1 7 6 4 and $T=4000 0 0 0 $X=27060 $Y=94610
.ENDS
***************************************
.SUBCKT Mux81 ground VDD IN0 IN1 IN2 IN3 IN4 IN5 S0 IN6 IN7 S1 OUT1 S2
** N=20 EP=14 IP=42 FDC=42
X0 VDD IN0 15 IN1 ground S0 Mux21 $T=880 165780 0 0 $X=-1725 $Y=258945
X1 VDD IN2 16 IN3 ground S0 Mux21 $T=5380 165780 0 0 $X=2775 $Y=258945
X2 VDD 15 19 16 ground S1 Mux21 $T=9880 165780 0 0 $X=7275 $Y=258945
X3 VDD IN4 17 IN5 ground S0 Mux21 $T=14380 165780 0 0 $X=11775 $Y=258945
X4 VDD IN6 18 IN7 ground S0 Mux21 $T=18880 165780 0 0 $X=16275 $Y=258945
X5 VDD 17 20 18 ground S1 Mux21 $T=23380 165780 0 0 $X=20775 $Y=258945
X6 VDD 19 OUT1 20 ground S2 Mux21 $T=27880 165780 0 0 $X=25275 $Y=258945
.ENDS
***************************************
.SUBCKT reg ground VDD dec0 dec1 dec2 dec3 dec4 dec5 dec6 dec7 Reg_W Rt0 Rt1 BusA Rt2 Rs0 Rs1 BusB Rs2 BusW
+ clk
** N=37 EP=21 IP=88 FDC=340
X0 ground VDD BusW 4 20 clk 6 21 ICV_1 $T=-125110 273965 0 0 $X=-126835 $Y=325700
X1 ground VDD BusW 8 22 clk 10 23 ICV_1 $T=-93110 273965 0 0 $X=-94835 $Y=325700
X2 ground VDD BusW 12 24 clk 14 26 ICV_1 $T=-61110 273965 0 0 $X=-62835 $Y=325700
X3 ground VDD BusW 16 27 clk 19 28 ICV_1 $T=-29110 273965 0 0 $X=-30835 $Y=325700
X4 ground VDD dec0 Reg_W 4 dec1 6 ICV_2 $T=-107910 261050 0 0 $X=-84850 $Y=355660
X5 ground VDD dec2 Reg_W 8 dec3 10 ICV_2 $T=-99910 261050 0 0 $X=-76850 $Y=355660
X6 ground VDD dec4 Reg_W 12 dec5 14 ICV_2 $T=-91910 261050 0 0 $X=-68850 $Y=355660
X7 ground VDD dec6 Reg_W 16 dec7 19 ICV_2 $T=-83910 261050 0 0 $X=-60850 $Y=355660
X8 ground VDD 20 21 22 23 24 26 Rt0 27 28 Rt1 BusA Rt2 Mux81 $T=-95220 32745 0 0 $X=-96945 $Y=291690
X9 ground VDD 20 21 22 23 24 26 Rs0 27 28 Rs1 BusB Rs2 Mux81 $T=-63720 32745 0 0 $X=-65445 $Y=291690
.ENDS
***************************************
